US08614328B2
Triethylamine (2.70 mL, 19.4 mmol) was added to a mixture of 3-hydroxyphthalic anhydride (3.00 g, 18.3 mmol) and rac-α-aminoglutarimide hydrochloride (3.01 g, 18.3 mmol) in DMF (60 mL). The reaction mixture was heated to 90° C. overnight, then cooled to room temperature and the solvent was evaporated under vacuum. The residue was stirred in CH2Cl2 (100 mL) for 30 min and the solvent was removed under vacuum. The residue was stirred in water (120 mL) for 2 h and the resulting solid was filtered, washed with water (50 mL) and dried. 1,4-Dioxane (200 mL) was added, and the resulting suspension was stirred for 16 h and filtered; the insoluble material was reserved. The filtrate was treated with decolorizing carbon (2 g) and heated to reflux for 1 h. After cooling to 50° C., the reaction mixture was filtered through Celite and the filter was washed with additional 1,4-dioxane (50 mL). The filtrate was combined with the insoluble precipitate and evaporated to dryness. The resulting solid was triturated with ethyl acetate (100 mL), filtered and dried to give 2-(2,6-dioxo-piperidin-3-yl)-4-hydroxy-isoindole-1,3-dione, 4.18 g, in 56% yield; 1H NMR (DMSO-d6) δ 1.99-2.06 (m, 1H), 2.45-2.61 (m, 2H), 2.82-2.96 (m, 1H), 5.08 (dd, J=12.6 Hz, J=5.3 Hz, 1H), 7.23-7.33 (m, 2H), 7.66 (dd, J=8.2 Hz, J=7.2 Hz, 1H), 11.10 (s, 1H), 11.19 (s, 1H).

reactant | Triethylamine | 19.4 mmol, 2.70 mL | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxyphthalic anhydride | 18.3 mmol, 3.00 g | OC1=C2C(C(=O)OC2=O)=CC=C1 | C8H4O4
reactant | rac-α-aminoglutarimide hydrochloride | 18.3 mmol, 3.01 g | Cl.NC1C(=O)NC(CC1)=O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 2-(2,6-dioxo-piperidin-3-yl)-4-hydroxy-isoindole-1,3-dione | 56% yield | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)O)=O)=O | C13H10N2O5
